US07582673B2
To a solution of 2-methoxy-5-trifluoromethanesulfonyl-1-benzenesulfonyl chloride (5 g) in dry dichloromethane (10 mL), benzene-1,2-diamine (5 g) was added followed by addition of dry pyridine (10 mL) at 0° C. The resulting deep red reaction mixture was then stirred at room temperature for 4 h. The reaction mixture was diluted with dichloromethane (250 mL). The contents were washed with saturated aqueous sodium chloride solution (50 mL) and saturated aqueous sodium carbonate solution (50 mL). The organic phase was dried over sodium sulfate and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc (7:1 to 4:1) to give N-(2-aminophenyl)-2-methoxy-5-trifluoromethanesulfonylbenzenesulfonamide (6 g). LC: Tr 0.95 min, MS: 411 (M+1)+. 1H NMR (CDCl3, 400 MHz): δ 4.18 (bs, 2H), 4.21 (s, 3H), 6.43 (m, 2H), 6.57 (bs, 1H), 6.75 (dd, 1H), 7.02 (t, 1H), 7.35 (d, 1H), 8.22 (dd, 1H), 8.40 (d, 1H) ppm.

reactant | 2-methoxy-5-trifluoromethanesulfonyl-1-benzenesulfonyl chloride | 5 g | COC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)S(=O)(=O)Cl | C8H6ClF3O5S2
reactant | benzene-1,2-diamine | 5 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | N-(2-aminophenyl)-2-methoxy-5-trifluoromethanesulfonylbenzenesulfonamide | 6 g | NC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)OC | C14H13F3N2O5S2
